US07005526B2
A solution of 126 mg (0.50 mmol) 4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenol in 4 ml N,N-dimethylformamide was treated at 0° C. with 14 mg (0.55 mmol) sodium hydride and stirred at that temperature for 30 min, then 143 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole were added and stirring continued over night at room temperature. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water, and purified on silica. Elution with ethyl acetate/methanol (0 to 20%) yielded 123 mg (33%) 1-[2-(4-{2-[2-(E)-(4-difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methanesulfinyl)-ethyl]-1H-[1,2,3]triazole as beige solid.

reactant | 4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenol | 0.50 mmol, 126 mg | N1(N=NC=C1)CCS(=O)CC1=CC=C(C=C1)O | C11H13N3O2S
reactant | sodium hydride | 0.55 mmol, 14 mg | [H-].[Na+]
reactant | 4-chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole | 0.50 mmol, 143 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)F | C13H10ClF2NO2
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-{2-[2-(E)-(4-difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl-methanesulfinyl)-ethyl]-1H-[1,2,3]triazole | 123 mg, 33% | FC(OC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CS(=O)CCN1N=NC=C1)F | C24H22F2N4O4S
